US07345068B2
0.5 N Lithium hydroxide (1.6 ml, 0.8 mmol) was added to a solution of N-trifluoroacetyl-3-(2-naphthyloxy)-L-phenylalanine ethyl ester (94 mg, 0.219 mmol) in tetrahydrofuran (2 ml) at 5° C. and the mixture was reacted at 5° C. for 69 hrs. The reaction mixture was adjusted to pH 3-4 with 1N hydrochloric acid and the precipitates were collected by filtration. The resultant solid was washed with water and ethanol in turn and then dried to give 3-(2-naphthyloxy)-L-phenylalanine (57 mg, 78%) as a colorless solid.

reactant | Lithium hydroxide | 0.8 mmol, 0.5 N, 1.6 ml | [OH-].[Li+]
reactant | N-trifluoroacetyl-3-(2-naphthyloxy)-L-phenylalanine ethyl ester | 0.219 mmol, 94 mg | C(C)OC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=CC=C1)OC1=CC2=CC=CC=C2C=C1)=O | C23H20F3NO4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-(2-naphthyloxy)-L-phenylalanine | 57 mg, 78% | C1=C(C=CC2=CC=CC=C12)OC=1C=C(C[C@H](N)C(=O)O)C=CC1 | C19H17NO3
